US06653476B2
1-{[3-Chloro-4-(4-methoxyphenyl)-7-oxido-5,8-dihydro-6H-thiopyrano[4′,3′:4,5]thieno[2,3-b]pyridin-2-yl]methyl}-2,5-pyrrolidinedione
A mixture of 1-{[3-chloro-4-(4-methoxyphenyl)-5,8-dihydro-6H-thiopyrano[4′,3′:4,5]thieno[2,3-b]pyridin-2-yl]methyl}-2,5-pyrrolidinedione (239.6 g) and dimethylformamide (1.8 L) was cooled to −7° C. and vanadium (IV) oxyacetylacetone (691 mg) was added thereto. 30% Hydrogen peroxide (59.2 g) was added dropwise and the mixture was stirred at 2° C. or lower for 8 hours. 0.5N Sodium thiosulfate (100 ml) and water (3 L) were added dropwise at 5 to 7° C. and the mixture was stirred at 15 to 20° C. for 1 hour. Crystals deposited were filtered off to obtain the titled compound (242 g, 97.5%). 1H-NMR (CDCl3) δ: 2.13-2.20 (1H, m), 2.54-2.73 (2H, m), 3.02-3.09 (1H, m), 3.90 (3H, s), 4.00 (1H, d, J=16.9 Hz), 4.10 (1H, d, J=16.9 Hz), 5.00 (1H, d, J=17.2 Hz), 5.06 (1H, d, J=17.2 Hz), 7.01 (2H, d, J=8.1 Hz), 7.16 (2H, d, J=8.1 Hz).

reactant | 1-{[3-chloro-4-(4-methoxyphenyl)-5,8-dihydro-6H-thiopyrano[4′,3′:4,5]thieno[2,3-b]pyridin-2-yl]methyl}-2,5-pyrrolidinedione | 239.6 g | ClC=1C(=C2C(=NC1CN1C(CCC1=O)=O)SC1=C2CCSC1)C1=CC=C(C=C1)OC | C22H19ClN2O3S2
reactant | dimethylformamide | 1.8 L | CN(C=O)C | C3H7NO
reactant | Hydrogen peroxide | 59.2 g | OO | H2O2
reactant | Sodium thiosulfate | 0.5N, 100 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 3 L | O | H2O
product | 1-{[3-Chloro-4-(4-methoxyphenyl)-7-oxido-5,8-dihydro-6H-thiopyrano[4′,3′:4,5]thieno[2,3-b]pyridin-2-yl]methyl}-2,5-pyrrolidinedione | 242 g, 97.5% | ClC=1C(=C2C(=NC1CN1C(CCC1=O)=O)SC1=C2CCS(C1)=O)C1=CC=C(C=C1)OC | C22H19ClN2O4S2
